US06083961
To a mixture of 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-(phthalimidoacetylamino)benzene (453 mg) and N,N-dimethylformamide (2.2 ml) was added sodium hydride (60% in oil, 31 mg) under ice-cooling, and the mixture was stirred for 50 minutes. To the mixture was added methyl iodide (0.055 ml), and the mixture was stirred for 2.5 hours at ambient temperature. Water (88 ml) was added to the mixture under ice-cooling, and the resulting precipitates were collected by vacuum filtration and washed with water and ethyl acetate to give 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene (236 mg) as powder.

reactant | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-(phthalimidoacetylamino)benzene | 453 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1Cl)NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)Cl | C33H30Cl2N2O4Si
reactant | N,N-dimethylformamide | 2.2 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 31 mg | [H-].[Na+]
reactant | methyl iodide | 0.055 ml | CI | CH3I
solvent | Water | 88 ml | O | H2O
product | 1-(tert-butyldiphenylsilyloxymethyl)-2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzene | 236 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1Cl)N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl | C34H32Cl2N2O4Si
